US07612075B2
{5-(Benzyloxycarbonylamino-methyl)-2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-thiazol-4-yl}-acetic acid ethyl ester (40 mg, 0.06 mmol) is treated with 30% HBr/HOAc (1 mL) for 7 h. Ether (10 mL) is added and the resulting precipitate is washed twice with ether. The resulting salt is partitioned between EtOAc (15 mL) and NaHCO3 solution (10 mL). The organic phase is washed with NaHCO3 and brine (2×10 mL), dried (MgSO4) and concentrated to provide {5-aminomethyl-2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-thiazol-4-yl}-acetic acid ethyl ester. 1H NMR (300 MHz, DMSO) δ 8.32 (d, 1H), 8.17 (s, 1H), 8.08-8.02 (m, 2H), 7.57 (dd, 1H), 4.62 (s, 2H), 4.02 (q, 2H), 3.81 (s, 2H), 3.74 (s, 2H), 3.64 (s, 2H), 3.48-3.35 (m, 4H), 2.48 (t, 3H); MS (ion spray) 543 (M+H)+.

reactant | {5-(Benzyloxycarbonylamino-methyl)-2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-thiazol-4-yl}-acetic acid ethyl ester | 0.06 mmol, 40 mg | C(C)OC(CC=1N=C(SC1CNC(=O)OCC1=CC=CC=C1)CN1C(CN(CC1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O)=O | C29H29ClN4O7S3
reactant | HBr HOAc | 1 mL | Br.CC(=O)O
solvent | Ether | 10 mL | CCOCC | C4H10O
product | {5-aminomethyl-2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-thiazol-4-yl}-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1CN)CN1C(CN(CC1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O)=O | C21H23ClN4O5S3
